US05707985
2-(5-Chloro -2-naphthylsulfonyl)-5-methylformyl-2,5-diazabicyclo[2.2.1]heptane
The title compound was prepared from 2-(5-Chloro-2-naphthylsulfonyl)-2,5-diazabicyclo[2.2.1]heptane, by dissolving the heptane (0.29 g, 0.8 mmol) in 20 ml dioxane and 1 ml of 1N NaOH solution. The solution was cooled with an ice bath. Methyl chloroformate (0.062 ml, 0.8 mmol) was added dropwise. Additional 1N NaOH solution was added to keep the pH above 9. After 1 hour at room temperature, the solvent was evaporated. The residue was partitioned between chloroform and saturated sodium bicarbonate solution. The aqueous layer was extracted three times with chloroform. After drying over magnesium sulfate, the solvent was evaporated to give a yellow foam. This was purified by chromatotron using 3/2 hexane/ethyl acetate to give 0.27 g (87% yield) of a white solid: mp 151°-152° C.; 1H NMR (CDCl3): 8.41-8-37 (m, 2 H, H1 and H3), 7.95-7-89 (m, 2 H, H4 and H6), 7.71 (d, J=7.4, 1 H, H8), 7.53 (t, J=7.8, 1 H, H7), 4.58 (s, 1 H, alkyl H), 4.49 (s, 1 H, alkyl H), 3.68 (s, 1 H, alkyl H), 3.55-3.46 (m, 4 H, alkyl H's), 1.70 (d, J=10.1, 1 H, alkyl H), 1.33-1.28 (m, 1 H, alkyl H).

reactant | 2-(5-Chloro-2-naphthylsulfonyl)-2,5-diazabicyclo[2.2.1]heptane | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)N1C2CNC(C1)C2 | C15H15ClN2O2S
reactant | heptane | 0.8 mmol, 0.29 g | CCCCCCC | C7H16
reactant | Methyl chloroformate | 0.8 mmol, 0.062 ml | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 1 ml | [OH-].[Na+]
solvent | NaOH | 1N | [OH-].[Na+]
product | 2-(5-Chloro -2-naphthylsulfonyl)-5-methylformyl-2,5-diazabicyclo[2.2.1]heptane | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)N1C2CN(C(C1)C2)C(=O)C | C17H17ClN2O3S
